US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.00 g, 13.04 mmol) with 3-methoxyphenylboronic acid (2.97 g, 19.57 mmol), dichlorobis(tri-o-tolylphosphine)palladium(II) (0.512 g, 0.652 mmol) and potassium carbonate (4.51 g, 32.62 mmol) generally according to the reaction conditions described for Intermediate 37 gave 4.48 g (84%) of (±)-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. mp 141-142° C.; Anal. calcd. for C23H22O5S: C, 67.3; H, 5.4. Found: C, 66.51; H, 5.41.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 13.04 mmol, 5.00 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 3-methoxyphenylboronic acid | 19.57 mmol, 2.97 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | potassium carbonate | 32.62 mmol, 4.51 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)palladium(II) | 0.652 mmol, 0.512 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(3-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 4.48 g, 84% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)OC | C23H22O5S
